US20010049371A1
3-(3-Acetoamidophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide was prepared by the procedure of Example 1 from 3-(3-acetoamidophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanoic acid (2.0 g, 4.7 mmol), carbonyldiimidazole (1.14 g, 7.03 mmol) and hydroxylamine hydrochloride (651 mg, 9.37 mmol) in tetrahydrofuran (10 mL) to afford 3-(3-acetoamidophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide as a white solid (1.0 g, 48% yield): mp, 117.0-119.0° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 2.19 (s, 3H, CH3), 3.09 (d, J=7.9 Hz, 2H, CH2), 3.72 (s, 3H, CH3), 3.98 (q, J=7.0 Hz, 2H, CH2), 5.65 (t, J=7.8 Hz, 1H, NCH), 6.87-6.95 (m, 2H, Ar), 6.99 (br s, 1H, Ar), 7.54 (d, J=6.9 Hz, 1H, Ar), 7.77 (t, J=7.45 Hz, 1H, Ar), 8.41-8.47 (m, 1H, Ar), 8.80 (br s, 1H, OH), 9.71 (s, 1H, NH), 10.59 (br s, 1H, NH); 13C NMR (DMSO-d6) δ24.69, 34.20, 44.09, 60.04, 65.48, 73.79, 121.78, 122.43, 126.69, 127.97, 129.64, 135.83, 141.00, 141.44, 145.75, 146.38, 157.70, 158.59, 175.97, 177.13, 178.19, 179.22; Anal Calcd for C22H23N3O7+0.3 H2O: C, 59.14; H, 5.32; N, 9.40. Found: C, 59.32; H, 5.33; N, 9.02.

reactant | 3-(3-acetoamidophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanoic acid | 4.7 mmol, 2.0 g | C(C)(=O)NC1=C2C(C(=O)N(C2=O)C(CC(=O)O)C2=CC(=C(C=C2)OC)OCC)=CC=C1 | C22H22N2O7
reactant | carbonyldiimidazole | 7.03 mmol, 1.14 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 9.37 mmol, 651 mg | Cl.NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-acetoamidophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide | 1.0 g, 48% yield | C(C)(=O)NC1=C2C(C(=O)N(C2=O)C(CC(=O)NO)C2=CC(=C(C=C2)OC)OCC)=CC=C1 | C22H23N3O7
